US06399629B1
(E) N-tert-Butoxycarbonyl-4-[2-(tert-Butoxycarbonylamino)ethyl]-L-Proline Methyl Ester
Triethylamine (47 μL) and solution of di-tert-butyl dicarbonate (67 mg) in dichloromethane (1 mL) was added to a stirred solution of 4-[2-(tert-butoxycarbonyl-amino)ethyl]-L-proline methyl ester (D, 69 mg) in dichloromethane (2 mL). After stirring at room temperature for 4 hr, the reaction mixture was diluted with dichloromethane and washed with brine. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (methanol:chloroform=1:100, v/v) to give the title compound (50 mg).

reactant | Triethylamine | 47 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 67 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-[2-(tert-butoxycarbonyl-amino)ethyl]-L-proline methyl ester | 69 mg | COC([C@H]1NCC(C1)CCNC(=O)OC(C)(C)C)=O | C13H24N2O4
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-tert-Butoxycarbonyl-4-[2-(tert-Butoxycarbonylamino)ethyl]-L-Proline Methyl Ester | 50 mg | COC([C@H]1N(CC(C1)CCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C18H32N2O6
